US04672064
A mixture of trans-4-(3-chloropropyl)-7-methoxy-3,4-dihydro-2H-1,5-benzoxathiepin-3-ol(0.1 g) and N-phenylpiperazine (0.2 g) is stirred at 90° C. for 2 hours. The reaction mixture is purified by silica gel column chromatography eluting with n-hexane-ethyl acetate methanol (10:10:1) and treated, with ethanolic hydrogen chloride to give trans-7-methoxy-4-[3-(4-phenylpiperazine-1-yl)propyl]-3,4-dihydro-2H-1,5-benzoxathiepin-3-ol dihydrochloride as an amorphous powder.

reactant | trans-4-(3-chloropropyl)-7-methoxy-3,4-dihydro-2H-1,5-benzoxathiepin-3-ol | 0.1 g | ClCCC[C@H]1[C@@H](COC2=C(S1)C=C(C=C2)OC)O | C13H17ClO3S
reactant | N-phenylpiperazine | 0.2 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
product | trans-7-methoxy-4-[3-(4-phenylpiperazine-1-yl)propyl]-3,4-dihydro-2H-1,5-benzoxathiepin-3-ol dihydrochloride | Cl.Cl.COC=1C=CC2=C(S[C@H]([C@@H](CO2)O)CCCN2CCN(CC2)C2=CC=CC=C2)C1 | InChI=1S/C23H30N2O3S.2ClH/c1-27-19-9-10-21-23(16-19)29-22(20(26)17-28-21)8-5-11-24-12-14-25(15-13-24)18-6-3-2-4-7-18;;/h2-4,6-7,9-10,16,20,22,26H,5,8,11-15,17H2,1H3;2*1H/t20-,22+;;/m1../s1
